US08431563B2
A 500-mL round-bottomed flask was charged with methyl N-(tert-butoxycarbonyl)-3-(tetrahydro-2H-pyran-4-yl)-L-alaninate (8.81 g, 30.7 mmol), 100 mL of THF, 100 mL of water and lithium hydroxide (2.20 g, 92 mmol). After stirring overnight at room temperature, the mixture was concentrated and acidified to pH 3 with concentrated aqueous HCl. The mixture was then extracted with EtOAc, dried (MgSO4), filtered, and concentrated to give N-(tert-butoxycarbonyl)-3-(tetrahydro-2H-pyran-4-yl)-L-alanine (8.00 g) as a white solid.

reactant | methyl N-(tert-butoxycarbonyl)-3-(tetrahydro-2H-pyran-4-yl)-L-alaninate | 30.7 mmol, 8.81 g | C(C)(C)(C)OC(=O)N[C@@H](CC1CCOCC1)C(=O)OC | C14H25NO5
reactant | THF | 100 mL | C1CCOC1 | C4H8O
reactant | lithium hydroxide | 92 mmol, 2.20 g | [OH-].[Li+]
solvent | water | 100 mL | O | H2O
product | N-(tert-butoxycarbonyl)-3-(tetrahydro-2H-pyran-4-yl)-L-alanine | 8.00 g | C(C)(C)(C)OC(=O)N[C@@H](CC1CCOCC1)C(=O)O | C13H23NO5
